US04372953
1-Methyl-5-chloro-1,2,3,4-tetrazole (2.4 g) is dissolved in ethanol (30 ml). Thiourea (1.5 g) is added to the solution and the mixture is refluxed for 2 hours. 3-Bromopropyl cyclohexyl ketone (4.7 g) and 10% aqueous sodium hydroxide (10 ml) are added to the mixture is further refluxed for 3 hours. Ethanol is distilled off and water is added to the residue. The mixture is extracted with chloroform. The chloroform solution is washed with water and then saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is purified by column chromatography (Wakogel C-200, eluant: chloroform) to obtain 1-methyl-5-(3-cyclohexylcarbonylpropyl)thio-1,2,3,4-tetrazole (1.4 g) as colorlss liquid, nD12 =1.5267.

reactant | 1-Methyl-5-chloro-1,2,3,4-tetrazole | 2.4 g | CN1N=NN=C1Cl | C2H3ClN4
reactant | Thiourea | 1.5 g | NC(=S)N | CH4N2S
reactant | 3-Bromopropyl cyclohexyl ketone | 4.7 g | C1(CCCCC1)C(=O)CCCBr | C10H17BrO
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-methyl-5-(3-cyclohexylcarbonylpropyl)thio-1,2,3,4-tetrazole | 1.4 g | CN1N=NN=C1SCCCC(=O)C1CCCCC1 | C12H20N4OS
